US08222248B2
A mixture of methyl (E)-3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-acrylate (200 mg, 420 μmol), 1N NaOH (520 μL), and methanol (260 μL) was diluted with 3 mL of water/methanol (2:1) and stirred at ambient temperature for 18 h. The solution was then quenched with 1N HCl (520 μL), filtered, and the precipitate washed with water and dried, to yield (E)-3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-acrylic acid. 1H-NMR (DMSO-d6, 400 MHz): δ 8.31 (s, broad, 1H), 7.87 (d, J=8.3 Hz, 1H), 7.74 (d, J=8.7 Hz, 2H), 7.67 (m, 1H), 7.58 (m, 3H), 7.37 (d, J=8.7 Hz, 2H), 6.63 (d, J=16.2 Hz, 1H), 2.15 (s, 6H), 1.29 (s, 9H). MS (ESI) m/z 468.2 (M+H): Retention time=1.24 min (Method 10).

reactant | methyl (E)-3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-acrylate | 420 μmol, 200 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)/C=C/C(=O)OC)C)C1 | C30H31N3O3
reactant | NaOH | 1N, 520 μL | [OH-].[Na+]
reactant | methanol | 260 μL | CO | CH4O
solvent | water methanol | 3 mL | O.CO
product | (E)-3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-acrylic acid | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)/C=C/C(=O)O)C)C1 | C29H29N3O3
